US07550598B2
(Z)—N-(4-(2-(5-oxo-3-propyl-1H-pyrazol-4(5H)-ylidene)-1,2-dihydroquinolin-4-ylthio)phenyl)isobutyramide
The title compound was synthesized using (Z)-4-(4-(4-aminophenylthio)quinolin-2(1H)-ylidene)-3-propyl-1H-pyrazol-5(4H)-one and isobutyryl chloride in THF according to the procedure described in the synthesis of Example 26. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.69 (t, J=7.33 Hz, 3H) 1.13 (d, J=6.82 Hz, 6H) 1.27-1.37 (m, J=7.42, 7.42, 7.42, 7.42, 7.20 Hz, 2H) 2.20 (t, J=7.20 Hz, 2H) 2.65 (dt, J=13.58, 6.73 Hz, 1H) 6.73 (s, 1H) 7.62 (t, J=7.58 Hz, 1H) 7.68 (d, J=8.34 Hz, 2H) 7.83-7.93 (m, 4H) 8.13 (d, J=8.08 Hz, 1H) 10.22 (s, 1H); ESI-MS: m/z calc'd for C25H26N4O2S 446.56. found 447.1 (M+H)+.

reactant | (Z)-4-(4-(4-aminophenylthio)quinolin-2(1H)-ylidene)-3-propyl-1H-pyrazol-5(4H)-one | NC1=CC=C(C=C1)SC1=C/C(/NC2=CC=CC=C12)=C/1\C(=NNC1=O)CCC | C21H20N4OS
reactant | isobutyryl chloride | C(C(C)C)(=O)Cl | C4H7ClO
solvent | THF | C1CCOC1 | C4H8O
product | (Z)—N-(4-(2-(5-oxo-3-propyl-1H-pyrazol-4(5H)-ylidene)-1,2-dihydroquinolin-4-ylthio)phenyl)isobutyramide | O=C1\C(\C(=NN1)CCC)=C\1/NC2=CC=CC=C2C(=C1)SC1=CC=C(C=C1)NC(C(C)C)=O | C25H26N4O2S
